US08957080B2
Into a 500 mL 3-necked round-bottom flask, was placed a solution of sodium hydride (3.9 g, 162.50 mmol, 1.7 equiv) in N,N-dimethylformamide (200 mL). This was followed by the addition of a solution of 1-fluoro-4-nitrobenzene (13.6 g, 96.39 mmol, 1.00 equiv) in N,N-dimethylformamide (50 mL) dropwise with stirring at 0° C. over 20 min. The reaction mixture was stirred for 2 hr at 25° C. and then CuCl (9.6 g, 96.97 mmol, 1.0 equiv) was added, followed by addition of a solution of 2,5-difluorophenol (15.5 g, 119.15 mmol, 1.2 equiv) in N,N-dimethylformamide (50 mL) dropwise with stirring at 25° C. over 10 min. The resulting solution was stirred for 12 h at 100° C. in an oil bath and then diluted with water and washed with ether, water and brine. The reaction mixture was dried over anhydrous sodium sulfate and concentrated. The residue was loaded onto a silica gel column and eluted with ethyl acetate/petroleum ether (1/8) to give 19.5 g (81%) of 1,4-difluoro-2-(4-nitrophenoxy)benzene as a brown solid,

reactant | sodium hydride | 162.50 mmol, 3.9 g, 1.7 equiv | [H-].[Na+]
reactant | 1-fluoro-4-nitrobenzene | 96.39 mmol, 13.6 g, 1.00 equiv | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 2,5-difluorophenol | 119.15 mmol, 15.5 g, 1.2 equiv | FC1=C(C=C(C=C1)F)O | C6H4F2O
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
catalyst | CuCl | 96.97 mmol, 9.6 g, 1.0 equiv | Cl[Cu]
product | 1,4-difluoro-2-(4-nitrophenoxy)benzene | 19.5 g, 81% | FC1=C(C=C(C=C1)F)OC1=CC=C(C=C1)[N+](=O)[O-] | C12H7F2NO3
